US07935719B2
Preparation of (3R)-1-[4-(1H-benzimidazol-1-yl)benzoyl]pyrrolidin-3-yl methane-sulfonate
A solution of (3R)-1-[4-(1H-benzimidazol-1-yl)benzoyl]pyrrolidin-3-ol (2.30 g, 7.48 mmol) in anhydrous dichloromethane at 0° C. is treated with diisopropylethyl amine (2.13 g, 16.46 mmol) and methanesulfonyl chloride (1.29 g, 11.22 mmol), stirred at 0° C. for 2 hours and concentrated to give a crude oil. Purification of this oil by flash column chromatography (silica, methanol:dichloromethane 5:95) provides the title product as a yellow solid, 2.3 g (81% yield), identified by NMR and mass spectral analyses. MS [386.5 m/e (M+H)].

reactant | (3R)-1-[4-(1H-benzimidazol-1-yl)benzoyl]pyrrolidin-3-ol | 7.48 mmol, 2.30 g | N1(C=NC2=C1C=CC=C2)C2=CC=C(C(=O)N1C[C@@H](CC1)O)C=C2 | C18H17N3O2
reactant | diisopropylethyl amine | 16.46 mmol, 2.13 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 11.22 mmol, 1.29 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | (3R)-1-[4-(1H-benzimidazol-1-yl)benzoyl]pyrrolidin-3-yl methane-sulfonate | 81% yield | CS(=O)(=O)O[C@H]1CN(CC1)C(C1=CC=C(C=C1)N1C=NC2=C1C=CC=C2)=O | C19H19N3O4S
